US05661108
A stirred solution of 20 mL (0.427 mole) of 90% nitric acid (fuming) in 170 mL of water was cooled in an ice-water bath, and 22.0 grams (0.077 mole) of N-(4-methylphenylsulfonyl)-2,5-difluoroaniline was added. To this mixture was added 170 mL of acetic acid and then 0.5 gram (0.008 mole) of sodium nitrite. Upon completion of the addition, the reaction mixture was warmed to 90° C., where it stirred for about 2.5 hours. The reaction mixture was then cooled and poured into cold water. The resultant precipitate was collected by filtration and dried, yielding about 25 grams of N-(4-methylphenylsulfonyl)-2,5-difluoro-4-nitroaniline. The NMR spectrum was consistent with the proposed structure.

reactant | nitric acid | 0.427 mole, 20 mL | [N+](=O)(O)[O-] | HNO3
reactant | N-(4-methylphenylsulfonyl)-2,5-difluoroaniline | 0.077 mole, 22.0 grams | CC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)F)F | C13H11F2NO2S
reactant | acetic acid | 170 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.008 mole, 0.5 gram | N(=O)[O-].[Na+]
solvent | water | 170 mL | O | H2O
product | N-(4-methylphenylsulfonyl)-2,5-difluoro-4-nitroaniline | about 25 grams | CC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C13H10F2N2O4S
